Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
CC: leg pain 

HPI: 

This is a ___ year old male with no significant PMH who presents
to ___ with bilateral leg pain and concern for rhabdomyolysis.
He attended a spin class at ___ on ___ (3 days ago)
and started to develop significant thigh pain that limited
ambulation. He also noticed dark colored urine and presented to
the ED.

In the ED, initial VS were 98.4 102 146/88 16 98% RA.
He reeived IV normal saline and truvada. 
Labs significant for a WBC of 19.8, initial CK of ___,
otherwise, normal CBC and BMP. Lactate 1.6. CK downtrended to
~70,000 with IV fluids.
He was admitted subsequently for rhabdomyolysis.

The patient confirms the story as above. He reports that he
initially thought his thigh soreness was due to a vigorous
workout, however, it progressed over the past few days. He
reports he could barely walk and that his urine turned dark,
prompting him to seek care. He denies any numbness or tingling.
He reports that his pain and range of motion have improved 
during
his stay in the ED. He denies recent illnesses, fever, chest
pain, shortness of breath, abdominal pain, or pain with
urinating. 
 
ROS: A 10 point review of systems is otherwise negative unless
stated in HPI. 

PAST MEDICAL/SURGICAL HISTORY:
- Rheumatoid arthritis
- Prior septoplasty

SOCIAL HISTORY: ___
FAMILY HISTORY: No FH of autoimmune disease

ALLERGIES/ADR: See webOMR

PREADMISSION MEDICATIONS:
The Preadmission Medication list is accurate and complete
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. leflunomide 20 mg oral DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. adalimumab 10 mg/0.1 mL subcutaneous ASDIR 

Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, ___ strength upper extremity strength, ___
hip flexion strength bilaterally, ranges both knees against
gravity, ___ bilateral dorsi and plantarflexion
EXT: warm, 2+ DP pulses, no edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, sensation intact along medial and lateral lower
legs and thighs
PSYCH: pleasant, appropriate affect

 
Major Surgical or Invasive Procedure:
.
 
History of Present Illness:
.
 
Past Medical History:
.
 
Social History:
___
Family History:
.
 
Physical Exam:
.
 
Pertinent Results:
___ 04:30PM BLOOD WBC-19.8* RBC-5.63 Hgb-17.5 Hct-52.4* 
MCV-93 MCH-31.1 MCHC-33.4 RDW-12.6 RDWSD-43.4 Plt ___
___ 06:30AM BLOOD WBC-10.6* RBC-4.62 Hgb-14.1 Hct-42.7 
MCV-92 MCH-30.5 MCHC-33.0 RDW-12.1 RDWSD-41.7 Plt ___
___ 04:30PM BLOOD Neuts-91.0* Lymphs-5.3* Monos-2.4* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-17.98* AbsLymp-1.04* 
AbsMono-0.48 AbsEos-0.01* AbsBaso-0.08
___ 04:30PM BLOOD Glucose-100 UreaN-12 Creat-0.9 Na-140 
K-5.1 Cl-104 HCO3-21* AnGap-15
___ 01:10AM BLOOD Glucose-103* UreaN-8 Creat-0.6 Na-143 
K-3.8 Cl-113* HCO3-19* AnGap-11
___ 05:59AM BLOOD Glucose-68* UreaN-9 Creat-0.7 Na-143 
K-4.4 Cl-112* HCO3-20* AnGap-11
___ 11:40PM BLOOD Glucose-83 UreaN-9 Creat-0.6 Na-141 K-4.5 
Cl-108 HCO3-21* AnGap-12
___ 06:30AM BLOOD Glucose-79 UreaN-7 Creat-0.7 Na-142 K-4.8 
Cl-109* HCO3-27 AnGap-6*
___ 04:30PM BLOOD ___
___ 07:45PM BLOOD ___
___ 01:10AM BLOOD ___
___ 05:59AM BLOOD ___
___ 01:55PM BLOOD ___
___ 11:40PM BLOOD ___
___ 06:30AM BLOOD ___
___ 04:30PM BLOOD CK-MB-58* MB Indx-0.1
___ 04:30PM BLOOD Calcium-9.8 Phos-3.8 Mg-2.3
___ 01:55PM BLOOD Calcium-8.8 Phos-2.9 Mg-2.1
___ 11:40PM BLOOD Calcium-9.1 Phos-3.1 Mg-2.1
___ 06:30AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.8
___ 04:48PM BLOOD Lactate-1.6

___ 02:57PM BLOOD Creat-0.6 Na-142 K-4.6 HCO3-25 AnGap-10
___ 06:20AM BLOOD Glucose-81 UreaN-6 Creat-0.7 Na-141 K-4.5 
Cl-110* HCO3-25 AnGap-6*
___ 12:40PM BLOOD Creat-0.6 Na-141 K-4.3 HCO3-27 AnGap-7*
___ 06:45AM BLOOD Creat-0.6 Na-138 K-4.1 Cl-107 HCO3-26 
AnGap-5*
___ 02:57PM BLOOD ___
___ 06:20AM BLOOD ___
___ 12:40PM BLOOD ___
___ 06:45AM BLOOD ___
___ 06:20AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.6
___ 12:40PM BLOOD Phos-2.8 Mg-2.2
___ 06:45AM BLOOD Phos-3.2 Mg-1.8
___ 02:57PM BLOOD CRP-3.3
___ 01:26AM URINE Color-Straw Appear-Clear Sp ___
___ 12:32AM URINE Color-Straw Appear-Clear Sp ___
___ 01:26AM URINE Blood-MOD* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:32AM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:26AM URINE RBC-<1 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-0
___ 12:32AM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
 
Brief Hospital Course:
This is a ___ year old male with no significant PMH who presents 
to ___ with bilateral thigh pain, found to have 
rhabdomyolysis.

ACUTE/ACTIVE PROBLEMS:
# Rhabdomyolysis with hematuria and myoglobinuria: 
Patient presenting with rhabdomyolysis
following a vigorous workout, significant muscle weakness, CK
elevated to >90,000 upon admission, with a UA typical of
rhabdomyolysis. No evidence of acute kidney injury on labs or
compartment syndrome on exam. His Cr was never elevated above 1. 
Given significant elevation in CK, he is at high risk for 
metabolic abnormalities.  He does have a
history of Rheumatoid Arthritis that was diagnosed earlier this
year. He has a history of sore muscles since he was ___, and his
mother does also.  He reports being sero negative with his
primary care at ___.  There are no reports of Truvada causing 
rhabdo. 
Rheumatology consult said that there is no evidence of active RA
or that this could have contributed to the process. He was 
admitted to the hospitalist service and given saline at 
500cc/hr. He had excellent urine output and needed minor 
electrolyte replacement (Magnesium), but otherwise lytes were 
stable.  His CK peaked around 150K but decreased to 41K the 
morning of discharge.  He had no weakness and his muscle 
pain/soreness greatly improved.  He understood that if he were 
to develop worsening muscle pain or decreased UOP or change in 
urine color, he should seek immediate medical attention.  He 
agreed to stay the afternoon and evening for additional IVF 
before going home.  
- Check urine myoglobin daily 

# Leukocytosis: Admission WBC of 19.8. No localizing signs of
infection. UA negative. CXR not obtained due to lack of 
symptoms.
On ___, this resolved.  

CHRONIC/STABLE PROBLEMS:
# PREP:
- Continue truvada for PREP

# RA:
- Restarted leflunomide ___ it is nonformulary

# ADHD: Patient previously on Buproprion 150 mg XL daily for
treatment of ADHD, not currently taking.

I spent > 30 min in discharge planning and coordination of care. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. leflunomide 20 mg oral DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. adalimumab 10 mg/0.1 mL subcutaneous ASDIR 

 
Discharge Medications:
1.  adalimumab 10 mg/0.1 mL subcutaneous ASDIR  
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
3.  leflunomide 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rhabdomyolysis 
Proteinuria 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with rhabdomyolysis, which is 
a condition where the proteins in the muscle cells can cause 
kidney damage.  You received IV fluids and replacement of your 
electrolytes, and you improved.  Make sure you drink enough 
fluid where you are able to urinate ___.  

We wish you the best in your recovery, 
Your ___ Team 
 
Followup Instructions:
___